US04518713
2-[3-(N-Benzyl-N-ethylamino)propyl]-2-(4-fluorophenyl)-dioxolane hydrochloride
A suspension prepared from 5.0 g of potassium iodide, 127 g of potassium carbonate, 335 ml of DMF, 50 g (0.37 mol) of ethyl benzyl amine and 87.2 g (0.357 mol) of 2-(3-chloropropyl)-2-(4-fluorophenyl)-1,3-dioxolane was heated at 80°-90° for 2.5 hours and at 100°-105° for 1 hour. The mixture was allowed to cool to room temperature, poured into water, extracted with ether, washed four times with water and once with saturated sodium chloride. The solution was dried over potassium carbonate and the solvent evaporated to provide an oil. The yield of the hydrochloride was 86.6 g (0.228 mol, 63%).

reactant | potassium iodide | 5.0 g | [I-].[K+]
reactant | potassium carbonate | 127 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl benzyl amine | 0.37 mol, 50 g | C(C)NCC1=CC=CC=C1 | C9H13N
reactant | 2-(3-chloropropyl)-2-(4-fluorophenyl)-1,3-dioxolane | 0.357 mol, 87.2 g | ClCCCC1(OCCO1)C1=CC=C(C=C1)F | C12H14ClFO2
reactant | hydrochloride | Cl | ClH
solvent | water | O | H2O
solvent | DMF | 335 ml | CN(C)C=O | C3H7NO
product | 2-[3-(N-Benzyl-N-ethylamino)propyl]-2-(4-fluorophenyl)-dioxolane hydrochloride | Cl.C(C1=CC=CC=C1)N(CC)CCCC1(OCCO1)C1=CC=C(C=C1)F | InChI=1S/C21H26FNO2.ClH/c1-2-23(17-18-7-4-3-5-8-18)14-6-13-21(24-15-16-25-21)19-9-11-20(22)12-10-19;/h3-5,7-12H,2,6,13-17H2,1H3;1H
